US08729078B2
5-(4-(2-Hydroxypropan-2-yl)phenylamino)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole-4-carbonitrile (480 mg, 1.13 mmol) was taken up in a solution of tetrabutylammonium fluoride (1M, 16.8 ml) and the flask was sealed. The mixture was placed in an oil bath heated to 110° C. and stirred for 28 hours. The mixture was cooled to ambient. Water (60 ml) and diethyl ether (60 ml) were added and the material was shaken in a reparatory funnel and the organic phase was collected. The aqueous phase was back extracted with diethyl ether (2×50 ml). The organic phase was combined, dried from magnesium sulfate, filtered and stripped. The crude remainder was purified through Analogix flash column chromatography using ethyl acetate in hexanes (30% to 90% gradient, 40 g silica gel) to provide 3-(4-(2-hydroxypropan-2-yl)phenylamino)-1H-pyrazol-4-carbonitrile as an off-white powder (128 mg, 47% yield). LC/MS calc'd for C13H14N4O (m/e) 242.28, obs'd 241 (M−H, ES−).

reactant | 5-(4-(2-Hydroxypropan-2-yl)phenylamino)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole-4-carbonitrile | 1.13 mmol, 480 mg | OC(C)(C)C1=CC=C(C=C1)NC1=C(C=NN1COCC[Si](C)(C)C)C#N | C19H28N4O2Si
reactant | tetrabutylammonium fluoride | 1M, 16.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | 60 ml | O | H2O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 3-(4-(2-hydroxypropan-2-yl)phenylamino)-1H-pyrazol-4-carbonitrile | 128 mg, 47% yield | OC(C)(C)C1=CC=C(C=C1)NC1=NNC=C1C#N | C13H14N4O
